US07754727B2
(3R*,4R*)-4-(4′-Methoxy-biphenyl-3-yl)-3-(naphthalen-2-ylmethoxy)-piperidine hydrochloride
The title compound is prepared analogously as described for the title D compound in Example 1 from (3R*,4R*)-4-(4′-methoxy-biphenyl-3-yl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester: MS 424.5 [M+H]+; Rf 0.24 (DCM/MeOH 9:1).

reactant | (3R*,4R*)-4-(4′-methoxy-biphenyl-3-yl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C=1C=C(C=CC1)C1=CC=C(C=C1)OC)OCC1=CC2=CC=CC=C2C=C1 | C34H37NO4
reactant | DCM MeOH | C(Cl)Cl.CO
product | (3R*,4R*)-4-(4′-Methoxy-biphenyl-3-yl)-3-(naphthalen-2-ylmethoxy)-piperidine hydrochloride | Cl.COC1=CC=C(C=C1)C1=CC(=CC=C1)[C@@H]1[C@H](CNCC1)OCC1=CC2=CC=CC=C2C=C1 | InChI=1S/C29H29NO2.ClH/c1-31-27-13-11-23(12-14-27)25-7-4-8-26(18-25)28-15-16-30-19-29(28)32-20-21-9-10-22-5-2-3-6-24(22)17-21;/h2-14,17-18,28-30H,15-16,19-20H2,1H3;1H/t28-,29+;/m1./s1
